US05202260
The procedure of Example 1 is repeated employing 2-amino-2-methyl-3-(3,4-dihydroxyphenyl)propionic acid rather than 2-hydrazino-2-methyl-3-(4-hydroxy-3-methoxyphenyl)propionic acid. The (±)-butyl 2-amino-2-methyl-3-(3,4-dihydroxyphenyl)propionate is obtained in a yield of 82%. The product is recrystallized from acetonitrile (77% yield) to give pure ester: mp 121.5° C. to 122° C.; HPLC analysis (C-18 column, 280 nm, tR =14.5 min) showed >99% purity.

reactant | 2-amino-2-methyl-3-(3,4-dihydroxyphenyl)propionic acid | NC(C(=O)O)(CC1=CC(=C(C=C1)O)O)C | C10H13NO4
reactant | 2-hydrazino-2-methyl-3-(4-hydroxy-3-methoxyphenyl)propionic acid | N(N)C(C(=O)O)(CC1=CC(=C(C=C1)O)OC)C | C11H16N2O4
product | (±)-butyl 2-amino-2-methyl-3-(3,4-dihydroxyphenyl)propionate | yield of 82% | NC(C(=O)OCCCC)(CC1=CC(=C(C=C1)O)O)C | C14H21NO4
